US07851071B2
(1) Synthesis of (4-bromophenyl)-(2-nitrophenyl) amine
A mixture made from 10 g (49.5 mmol) of 2-bromo nitrobenzene, 13 g (163 mmol) of sodium acetate and 10 g (59 mmol) of 4-bromo aniline was stirred with heating at the temperature of 180° C. under the atmosphere of nitrogen gas for 8 hours. The reacted solution was cooled down to room temperature, diluted with ethyl acetate and filtered. After concentrating the filtrate, and by washing the residue with methanol 3.8 g of (4-bromophenyl)-(2-nitrophenyl) amine was obtained as orange crystals (yield: 22%).

reactant | 2-bromo nitrobenzene | 49.5 mmol, 10 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | sodium acetate | 163 mmol, 13 g | C(C)(=O)[O-].[Na+]
reactant | 4-bromo aniline | 59 mmol, 10 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-bromophenyl)-(2-nitrophenyl) amine | yield: 22% | BrC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
